US07381719B2
Part B: (4-Hydroxybenzyl)phenethylcarbamic acid tert-butyl ester
Suspend 4-(phenethylaminomethyl)phenol (0.750 g, 3.30 mmol) in dichloromethane (10 mL). Add a solution of (BOC)2O (1.08 g, 4.95 mmol) in dichloromethane (6.5 mL). Quench with 1.0 N NaOH (75 mL) after 19 hours. Extract with dichloromethane (2×200 mL). Wash the organic layer with brine (1×75 mL), dry over Na2SO4, filter and concentrate. Purify by flash chromatography, eluting with 20-30% ethyl acetate in hexanes to give the title compound (0.570 g, 52.8%): MS ES+ 328.3 (M+H)+, base peak ES+ 272.1 (M+2H—C(CH3)3)+, ES− 326.3 (M−H)−; HPLC [YMC-Pack Pro C-18 (150×4.6 mm, S-5 microm), acetonitrile in water containing 0.01% concentrated HCl at 1.0 mL/min, 30-99% over 19 min], tR=14.7 min, 100% purity.

reactant | 4-(phenethylaminomethyl)phenol | 3.30 mmol, 0.750 g | C(CC1=CC=CC=C1)NCC1=CC=C(C=C1)O | C15H17NO
reactant | (BOC)2O | 4.95 mmol, 1.08 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 6.5 mL | ClCCl | CH2Cl2
product | (4-Hydroxybenzyl)phenethylcarbamic acid tert-butyl ester | 0.570 g, 52.8% | C(C)(C)(C)OC(N(CCC1=CC=CC=C1)CC1=CC=C(C=C1)O)=O | C20H25NO3
